US06191166B1
Synthesis of (S)-(−)-α-Methylbenzyl formamide
(S)-(−)-α-Methylbenzylamine (1 molar eq.) was treated with ethyl formate (80 molar eq.; Aldrich). A precipitate formed immediately. The suspension was heated to reflux (55° C.) for 3 hours. The precipitate went into solution upon heating. The solution was cooled to ambient temperature and concentrated via rotary evaporation. The resultant solid was used without purification.

reactant | (S)-(−)-α-Methylbenzylamine | 1 molar | C[C@@H](C1=CC=CC=C1)N | C8H11N
reactant | ethyl formate | C(=O)OCC | C3H6O2
product | (S)-(−)-α-Methylbenzyl formamide | C[C@@H](C1=CC=CC=C1)NC=O | C9H11NO
